Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back, Right arm pain
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
The patient is a ___ year old right handed ___ speaking 
male with history of migraines, vertigo and hemorrhoids, 
recently seen by Dr. ___ for neck and right 
arm pain, found to have C4 hyperintense lesion on MRI, 
presenting to Emergency Department for expedited workup. History 
provided by patient and daughter who is translating in 
___ no bedside ___ interpreter available at this 
time and the patient is in a hallway in ED without phone line. 

Mr. ___ was in his usual state of health until approximately 
1.5 months ago, when he developed acute onset of neck pain and 
right arm radicular pain. The pain was described as radiating 
down from the neck to his elbow and into the hands and fingers. 
It is most prominent on the posterior aspect of his right 
forearm.  This pain has progressively worsened over the last 1.5 
months. He woke up in the morning 1.5 months ago with symptoms. 
No preceding trauma or neck manipulation. No recent infectious 
symptoms, recent illness, or fevers/chills. His daughter notes 
that he does do frequent heavy lifting for his job as a ___ 
___. He also notes worsening of his baseline right hand tremor 
over this time period (tremor itself had been present for over 
___ years).  

The patient was seen by Dr. ___ on ___ 
for workup of these symptoms. He was given trial of Gabapentin 
uptitration and initial presumed diagnosis of cervical 
radiculopathy. He underwent MRI ___ as outpatient which 
revealed T2 hyperintense cord signal at C4, with very mild 
associated cervical spondylosis. He was instructed to present to 
BI ED for expedited workup.

Patient notes that over the last few days, his symptoms have now 
included low back pain. He remains with neck pain and right arm 
radicular pain which is circumferential throughout the right 
arm. The gabapentin he was prescribed has had modest improvement 
only. He reports associated parasthesias diffusely, 
circumferentially, around right arm with activity but none at 
rest. No numbness. No bowel or bladder changes, including 
incontinence, urgency and pain. No history of visual loss. 

With respect to the rest of his neurologic history, Mr. ___ 
has a history of dizziness and migraines, for which he saw Dr. 
___ in ___.  The dizziness was described 
as a disequilibrium, lasting throughout the day, worsened with 
certain positions such as lifting and bending forward, and 
relatively controlled with meclizine. He also has a history of 
migraine headaches for which he was on prophylactic verapamil 
and nortriptyline in the past, but did not tolerate well. He 
does not take any prophylactic therapy at this time, only 
prophylactic NSAIDs which he has not taken in weeks.

Notably, the patient denies any history of unexplained visual 
loss, weakness or sensory changes throughout his lifetime. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal weakness, 
numbness. No bowel or bladder incontinence or retention. Denies 
difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Migraines without aura
GERD
Chronic intermittent dizziness
Right hand tremor

 
Social History:
___
Family History:
Mother with dementia. 
Sister with breast cancer.

 
Physical Exam:
ADMISSION:
Physical Exam:
Vitals: T 98.1F, HR 71, BP 130/84, RR 16, o2 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and 
situation. Able to relate history without difficulty. Attentive, 
able to name ___ backward without difficulty. Language is fluent 
with intact repetition and comprehension. Normal prosody. There 
were no paraphasic errors. Pt was able to name both high and low 
frequency objects.  Able to read without difficulty. Speech was 
not dysarthric. Able to follow both midline and appendicular 
commands. Pt was able to register 3 objects and recall ___ at 5 
minutes. The pt had good knowledge of current events. There was 
no evidence of apraxia or neglect.

-Cranial Nerves:
Mental status: 
Patient speaks through interpreter and is fully alert and 
oriented with fluent speech and comprehension.  Patient is able 
to state months of the year backward with no difficulty and name 
high and low frequency objects.  Patient with no difficulty with 
naming and repetition. 

I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Fundoscopic 
exam revealed no papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Low amplitude postural tremor on right arm, some 
improvement with distraction. No asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___-  5    ___     5    5   5      5     5

-Sensory: No sensory level on pinprick of back. No deficits to 
light touch, pinprick, cold sensation, proprioception 
throughout, including pinprick testing of groin area. No 
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L 2+ 2+    2+   3*  2
R 2+ 2+    2+   3*  2
*crossed adductors present   
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

DISCHARGE:
Discharge general examination:
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Discharge neurological examination:
Neurologic examination:

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___-  5    ___     5    5   5      5     5

Sensory: 
No deficits to light touch, proprioception throughout.
No extinction to DSS.

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
ADMISSION
==========
___ 01:00PM BLOOD WBC-4.3 RBC-4.90 Hgb-15.3 Hct-45.1 MCV-92 
MCH-31.2 MCHC-33.9 RDW-12.9 RDWSD-43.9 Plt ___
___ 01:00PM BLOOD Neuts-57.2 ___ Monos-7.9 Eos-0.7* 
Baso-1.2* Im ___ AbsNeut-2.46 AbsLymp-1.41 AbsMono-0.34 
AbsEos-0.03* AbsBaso-0.05
___ 01:00PM BLOOD ___ PTT-28.8 ___
___ 01:00PM BLOOD Glucose-91 UreaN-10 Creat-0.9 Na-143 
K-5.5* Cl-107 HCO3-25 AnGap-11
___ 01:00PM BLOOD ALT-16 AST-24 AlkPhos-45 TotBili-0.6
___ 01:00PM BLOOD Albumin-4.5
___ 01:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:26PM BLOOD K-3.1*

DISCHARGE/PERTINANT:
====================
___ 05:05AM BLOOD WBC-5.0 RBC-4.73 Hgb-14.9 Hct-43.8 MCV-93 
MCH-31.5 MCHC-34.0 RDW-13.2 RDWSD-44.5 Plt ___
___ 05:05AM BLOOD ___ PTT-33.8 ___
___ 05:05AM BLOOD Glucose-87 UreaN-10 Creat-0.9 Na-142 
K-3.7 Cl-103 HCO3-27 AnGap-12
___ 05:05AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.2
___ 12:45PM BLOOD VitB12-341
___ 12:45PM BLOOD TSH-1.7
___ 12:45PM BLOOD ___ CRP-0.4
___ 12:45PM BLOOD HIV Ab-NEG
___ 12:45PM BLOOD SED RATE-Test      
___ 12:45PM BLOOD RO & ___      
___ 12:45PM BLOOD NEUROMYELITIS OPTICA 
(NMO)/AQUAPORIN-4-IGG CELL-BINDING ASSAY, SERUM-PND

SPECIMEN SUBMITTED: CSF-IMMUNOPHENOTYPING
RESULTS:
10-color analysis with linear side scatter vs. CD45 gating is 
used to evaluate lymphocytes.

Only 3% of total acquired events are evaluable non-debris 
events. 

The viability of the analyzed non-debris events, done by 7-AAD 
is 96%. 

CD45-bright, low side-scatter gated lymphocytes comprise 27% of 
total analyzed events. 

B and T cells are scant in number precluding evaluation and 
further characterization. 

INTERPRETATION
Non-diagnostic study. Cell marker analysis was attempted, but 
was non-diagnostic in this case due to insufficient numbers of 
cells for analysis. Correlation with clinical and other 
ancillary findings is recommended. Flow cytometry 
immunophenotyping may not detect all abnormal populations due to 
topography, sampling or artifacts of sample preparation. 

 

IMAGING
========
CHEST (PA & LAT)
IMPRESSION:  
No acute cardiopulmonary process. 

MR ___ SCAN WITH CONTRAST; MR ___ SPINE SCAN WITH CONTRAST
IMPRESSION: 
1. Two 3 mm T2 hyperintense ventral cord lesions are 
re-demonstrated at C4 and C5 levels, without enhancement to 
suggest active process.  Differential considerations remain 
sequela of spondylotic or posttraumatic myelopathy and chronic 
inflammatory process such as demyelination. 
2. No suspicious thoracic cord lesions. 
3. Multilevel degenerative changes in the cervical spine as 
described above. 
4. 8 mm mildly enhancing T2 hyperintense lesion along the right 
hepatic lobe, likely a hemangioma.  A right upper quadrant 
ultrasound is recommended for further characterization on a 
nonurgent basis. 
RECOMMENDATION(S):  Nonurgent right upper quadrant ultrasound. 

MR HEAD W & W/O CONTRAST
IMPRESSION: 
1. No abnormal enhancement after contrast administration. 
2. Nonspecific periventricular subcortical white matter FLAIR 
hyperintensities suggest chronic small vessel ischemic changes.  
Differential considerations in a patient of this age would 
include sequela prior trauma, infectious/inflammatory allergy or 
chronic headache.  These are not in a distribution typical for 
demyelinating process. 
3. Additional findings as described above. 

LIVER OR GALLBLADDER US 
IMPRESSION: 
1. Slightly nodular liver with two hyperechoic lesions 
identified.  The 
smaller lesion within the right lobe is consistent with a 
hepatic hemangioma and correlates satisfactorily to the 
incidental finding seen on prior spine MRI from ___.  
The larger lesion within hepatic segment III is slightly 
irregular in contour and echogenicity but most likely represents 
a hepatic hemangioma, although cannot be completely 
characterized.  If further characterization is desired a 
dedicated multiphasic CT or MRI could be considered. 
2. Asymmetrically small right kidney with mildly increased 
cortical 
echogenicity could indicate underlying medical renal disease. 

MICROBIOLOGY
============
URINE CULTURE (Final ___:    < 10,000 CFU/mL.
CSF
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 
Blood Lyme
   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
      Negative results do not rule out B. burg___ infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody. 
RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
Mr. ___ is a ___ speaking ___ year-old right handed male 
with a PMH significant for migraine without aura who was 
admitted with a finding of focal MRI hyperintensity in the C4 
right anteriolateral cord in the setting of a 6 weeks history of 
acute onset right upper back pain and progressive episodes of 
shooting right arm pain and paresthesias. His initial exam was 
notable for mild weakness in his right finger extensors and 
interossei. Further MRI imaging with contrast was obtained on 
head, C- and T-spine which did not show additional related 
findings. Lumbar puncture was performed which was notable for 
borderline WBC elevation at 1 and 5 (normal range ___. 
Differential diagnosis includes acute demyelinating 
encephalomyelitis (ADEM), multiple sclerosis (MS), neuromyelitis 
optica (NMO), with ADEM considered most likely. Patient was 
treated with 3 day course of methylprednisone with symptomatic 
improvement. He was then discharged on gabapentin for pain 
control with plans to follow-up with neurology in the outpatient 
clinic.

#Pain:
Patient was admitted for pain and associated C4 MRI finding. 
Further MRI imaging of head, C- and T-spine was obtained which 
showed no other notable lesions, and LP showed borderline white 
blood cell elevation. Patient was treated with steroids for 
likely demyelinating condition with symptomatic improvement and 
then discharged on gabapentin for pain control.

#Liver Finding:
During pain workup had incidental finding on MRI. Follow-up 
right upper-quadrant ultrasound was obtained, interpreted to 
likely be a hemangioma. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 500 mg PO QHS 
2. Omeprazole 40 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Gabapentin 500 mg PO QHS  
3.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Disseminated Encephalomyelitis (ADEM)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you were admitted because of neck/back pain and pain radiating 
down your right arm.  We did imaging and there was a lesion 
identified on your upper spinal cord.  We are uncertain what 
this lesion is caused by but think it was caused by 
inflammation.  This inflammation can be a one time event or it 
can be recurring and lead to further neurologic issues.  Only 
time will tell.  We do not believe that this lesion was caused 
by cancer or infection.  You improved with steroid treatment in 
the hospital and there is no indication for more steroids at 
this time. You will follow up with our neurology team as an 
outpatient to follow up on this lesion.  If your symptoms recur 
or worsen or if you experience new neurologic symptoms, then you 
should return to the emergency department for further care and 
evaluation. 
 
Followup Instructions:
___